US08193164B2
Intermediate WC 9-((1R,4S)-4-(Di-Boc-amino)-cyclopent-2-enyl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester
9-((1R,4S)-4-Ethoxycarbonyloxy-cyclopent-2-enyl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester (Intermediate WB) (1 eq.), di-tert-butyl iminodicarboxylate (1.1 eq.), triphenylphosphane (0.15 eq.) and TEA are dissolved in THF (deoxygenated & dry).) Tris(dibenzylideneacetone)dipalladium(0) (0.05 eq.) is added and the reaction mixture is stirred at 50° C. for 1 hour. The reaction mixture is removed in vacuo and the title compound is obtained by column chromatography.

reactant | 9-((1R,4S)-4-Ethoxycarbonyloxy-cyclopent-2-enyl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester | 1 eq. | COC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)OC(=O)OCC)N[C@@H](CC1=CC=CC=C1)CO | C24H27N5O6
reactant | di-tert-butyl iminodicarboxylate | 1.1 eq. | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | triphenylphosphane | 0.15 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | C1CCOC1 | C4H8O
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.05 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 9-((1R,4S)-4-(Di-Boc-amino)-cyclopent-2-enyl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)CO | C31H40N6O7
